US07470664B2
To a solution of cyclohexanecarboxaldehyde (10.8 mL, 89.15 mmol) in DCM (500 mL) cooled to 0° C. was added potassium tert-butoxide (13.0 g, 115.9 mmol) and methyl iodide (16.65 mL, 267.5 mmol). After 30 min at this temperature, the mixture was warmed to RT and stirring was continued for an additional 5 h. The reaction was then poured into brine and extracted with DCM. The organic layer was dried over MgSO4 and the solvent was then removed carefully in vacuo to yield 9.4 g (83%) of crude 1-methylcyclohexanecarboxaldehyde which was ˜80% pure and was used directly in the next reaction.

reactant | cyclohexanecarboxaldehyde | 89.15 mmol, 10.8 mL | C1(CCCCC1)C=O | C7H12O
reactant | potassium tert-butoxide | 115.9 mmol, 13.0 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 267.5 mmol, 16.65 mL | CI | CH3I
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 1-methylcyclohexanecarboxaldehyde | 9.4 g, 83% | CC1(CCCCC1)C=O | C8H14O
